US07393868B2
2-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid methylamide
Add oxalyl chloride (0.12 mmol) to a suspension of 2-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid (0.1 mmol) and DMF (0.05 mmol) in dichloromethane at 0° C. Stir 1 h at RT. Concentrate to dryness under reduced pressure. Dissolve resultant residue in 3 ml CH2Cl2 and add (2.8 mmol) of MeNH2 (2M in THF). Concentrate the reaction to dryness and purify by flash chromatography (Silica gel- eluting with 5%MeOH/CH2Cl2). Concentrate the desired fractions to provide the title compound. MS (ES−): 534(M−1).

reactant | oxalyl chloride | 0.12 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid | 0.1 mmol | CC(C)S(=O)(=O)NC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C23H26N2O6S3
reactant | DMF | 0.05 mmol | CN(C)C=O | C3H7NO
reactant | MeNH2 | 2.8 mmol, 2M | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid methylamide | CNC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)NS(=O)(=O)C(C)C | C24H29N3O5S3
